Name:  ___     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Dapsone
 
Attending: ___.
 
Chief Complaint:
elective admission for high dose methotrexate
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ primarily ___ speaking man with coronary artery disease 

s/p BMS to large OM branch in ___ for inferior STEMI, HIV on 
ART (CD4 275, viral load undetectable in ___, 
high-grade CNS B cell lymphoma (brain stem) s/p brain biopsy, on 
high-dose MTX (started ___ and dexamethasone, presenting 
for cycle 6 of high dose methotrexate. After cycle 4 he had an 
MRI which showed improvement in his disease but some areas of 
residual enhancement. The plan was to continue on 2 week 
intervals until at least cycle 7. 

Of note, the patient was admitted on ___ with anal HSV2 
infection. He was treated with treatment dose acyclovir for 7 
days and continued acyclovir daily for prophylaxis. As an 
outpatient he was found to have breakthrough lesions on 
suppressive acyclovir and his PCP started him on treatment doses 

of valacyclovir 1g BID. 

Today, he reports feeling okay but has had a headache since noon 
yesterday. He rates it ___ but has not taken tylenol or 
ibuprofen, because it is not that bad yet. He has increased 
sensitivity of his R scalp, which has been an ongoing problem 
for many years, since he had shingles. He has a bit of a sore 
throat with some slight pain when swallowing. This started 2 
days ago. he has no runny nose, fevers, or cough. He has no skin 
rash, including herpetic lesions.  He has some tingling in his 
left foot which is stable. His vision he thinks is better 
overall, but says he did have to use his reading glasses on 
___. 

REVIEW OF SYSTEMS:  
(+) Per HPI  
(-) Denies fever, chills, night sweats, recent weight loss or 
gain. Denies headache, rhinorrhea or congestion. Denies chest 
pain, chest 
pressure, or weakness. Denies nausea, vomiting, diarrhea, 
constipation, abdominal pain. Denies dysuria, arthralgias or 
myalgias. Denies rashes or skin changes. All other ROS negative  

 
Past Medical History:
PAST ONCOLOGIC HISTORY:
-- ___ - stereotaxic biopsy of the mass by Dr. ___  
-- ___ - started high-dose methotrexate  
-- ___ - C2D1 HD-MTX
-- ___  - C3D1 HD-MTX
-- ___ - C4D1 HD-MTX
-- ___   - C5D1 HD-MTX
 
PAST MEDICAL HISTORY:
-CNS B-cell Lymphoma
-CAD s/p BMS to large OM branch in ___ - chronically occluded 
LAD collateralized from the right coronary artery
-HIV on ART 
-history of pancreatitis ___ HIV medication
-Hypertension
-Hyperlipidemia
-Gastric ulcer
-anal HSV
-R ophthalmic zoster
 
Social History:
___
Family History:
Family history is notable for father and brother with prostate 
cancer, and 
several paternal aunts with breast cancer and maternal uncles 
with diabetes.
 
Physical Exam:
VS: 98   118/72    84   18    99%RA
GEN: alert, oriented to name, place and situation. no acute 
signs of distress.
HEENT: NCAT, Pupils equal and reactive, sclerae non-icteric, 
MMM, OP clear no erythema
Neck: Supple
Lymph nodes: No cervical, supraclavicular or axillary LAD.
CV: S1S2, reg rate and rhythm, no murmurs, rubs or gallops.
RESP: Good air movement bilaterally, no rhonchi or wheezing.
ABD: Soft, non-tender, non-distended, no hepatosplenomegaly
EXTR: No lower leg edema. tingling sensation L foot but no 
sensory loss
DERM: No active rash
Neuro: muscle strength grossly full and symmetric in all major 
muscle groups
PSYCH: Appropriate and calm.
 
Pertinent Results:
==================================
              Labs
==================================
___ 10:27AM BLOOD WBC-6.3# RBC-3.59* Hgb-11.4* Hct-35.2* 
MCV-98 MCH-31.7 MCHC-32.3 RDW-19.0* Plt ___
___ 07:30AM BLOOD WBC-4.8 RBC-3.30* Hgb-10.4* Hct-32.2* 
MCV-98 MCH-31.4 MCHC-32.2 RDW-18.8* Plt ___
___ 06:00AM BLOOD WBC-4.1 RBC-4.04* Hgb-12.6* Hct-39.7* 
MCV-98 MCH-31.2 MCHC-31.8 RDW-18.1* Plt ___
___ 10:27AM BLOOD Glucose-124* UreaN-14 Creat-0.9 Na-135 
K-3.7 Cl-100 HCO3-26 AnGap-13
___ 07:30AM BLOOD Glucose-98 UreaN-12 Creat-0.9 Na-135 
K-3.8 Cl-97 HCO3-33* AnGap-9
___ 06:00AM BLOOD Glucose-156* UreaN-9 Creat-0.8 Na-137 
K-4.2 Cl-96 HCO3-31 AnGap-14
___ 10:27AM BLOOD ALT-23 AST-17 LD(LDH)-239 AlkPhos-74 
TotBili-0.9
___ 07:30AM BLOOD ALT-24 AST-19 AlkPhos-72 TotBili-0.7
___ 06:00AM BLOOD ALT-37 AST-30 AlkPhos-83 TotBili-0.7
___ 10:27AM BLOOD Calcium-8.7 Phos-4.0 Mg-1.6
___ 05:10PM BLOOD mthotrx-1.6
___ 06:00AM BLOOD mthotrx-0.25
___ 05:35PM BLOOD mthotrx-0.09

==================================
            Radiology            
==================================

MRI head ___
FINDINGS:
 
There has been interval removal of a right frontal external 
ventricular drain
with some areas of blooming susceptibility along the tract 
likely related to
residual blood products. The patient is status post biopsy of a 
___
ventricular mass through a right suboccipital approach with 
associated mild T1
intrinsic hyperintensity and blooming susceptibility within the 
right aspect
of the ___ ventricle likely related to residual blood products. 
The
previously noted enhancing mass within the ___ ventricle is no 
longer
identified; there is some mild residual enhancement and adjacent 


parenchymal
high T2/FLAIR hyperintensity.
 
There is no evidence of acute intracranial infarct or 
hemorrhage. There are
nonspecific small scattered T2/FLAIR high signal foci throughout 


the brain.
Gray white matter differentiation is otherwise maintained. 
Ventricles and
extra axial spaces are also otherwise within normal limits for 
age. The major
intracranial vessels exhibit the expected signal void related to 


vascular
flow.
 
The paranasal sinuses demonstrate scattered areas of mucosal 
thickening.
Fluid signal and inflammatory changes are noted within scattered 


right greater
than left mastoid air cells. The sella turcica, craniocervical 
junction, and
orbits are unremarkable.
 
IMPRESSION:
 
Previously identified enhancing ___ ventricular mass is no 
longer present;
however, there is some mild residual enhancement and adjacent 
parenchymal high
T2/FLAIR hyperintensity abbout the right aspect of the ___ 
ventricle. 

 
Brief Hospital Course:
___ male with HIV, CAD, CNS lymphoma here for cycle 6 high dose 
methotrexate treatment. MRI after cycle 4 showed residual 
disease, so plan was to increase dose to 8g/m2 and continue 
every 2 weeks until cycle 7, then reassess. After urinary 
alkalinization, he received 16560mg methotrexate on ___.  
This was 
followed by leucovorin rescue 24 hours later. His methotrexate 
level on ___ is 0.09 and he will be discharged home in good 
condition. He will continue on biweekly methotrexate for 1 more 
cycle and has been asked to report back to ___ on ___ for 
the next cycle (#7). after cycle 7 he will have another MRI to 
assess response.
For his HSV, he has been on acyclovir 800mg BID and will be 
monitored for symptoms. His blood pressure was slightly low 
while here but he continued his metoprolol and lisinopril at 
12.5mg and 2.5mg respectively with no symptoms of hypotension. 

# Dispo: 
[x] Discharge documentation reviewed, pt is stable for 
discharge.
[x] Time spent on discharge activity was greater than 30min.
[ ] Time spent on discharge activity was less than 30min.

# Active meds: See below.

____________________________________
___, MD, pager ___

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Dexamethasone 0.5 mg PO DAILY 
2. Emtricitabine-Tenofovir (Truvada) 1 TAB PO DAILY 
3. Fish Oil (Omega 3) 1000 mg PO DAILY 
4. Lisinopril 2.5 mg PO DAILY 
5. Lopinavir-Ritonavir 2 TAB PO BID 
6. Metoprolol Succinate XL 12.5 mg PO DAILY 
7. Pravastatin 40 mg PO DAILY 
8. Acyclovir 800 mg PO Q12H 
9. Aspirin 81 mg PO DAILY 
10. Omeprazole 40 mg PO DAILY 

 
Discharge Medications:
1. Acyclovir 800 mg PO Q12H 
2. Dexamethasone 0.5 mg PO EVERY OTHER DAY 
3. Emtricitabine-Tenofovir (Truvada) 1 TAB PO DAILY 
4. Fish Oil (Omega 3) 1000 mg PO DAILY 
5. Lisinopril 2.5 mg PO DAILY 
6. Lopinavir-Ritonavir 2 TAB PO BID 
7. Metoprolol Succinate XL 12.5 mg PO DAILY 
8. Pravastatin 40 mg PO DAILY 
9. Aspirin 81 mg PO DAILY 
10. Omeprazole 40 mg PO DAILY 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
CNS lymphoma

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,
It was a pleasure taking care of you during your stay at ___ 
___. You were admitted for treatment of 
your brain lymphoma with high dose methotrexate chemotherapy. 
You tolerated the chemo very well with no complications. You 
should return to 11 ___ in 2 weeks for your next treatment.
 
Followup Instructions:
___